US20010047031A1
(2R, 3S) and (2S, 3S)-4-[1-(2-Hydroxy-2-indan-2-yl-ethyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=388.3 (M+H+) was prepared from (S)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid and (RS)-2-indan-2-yl-oxirane.

reactant | (S)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid | FC(C(=O)O)(F)F.N1C[C@H](CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | (RS)-2-indan-2-yl-oxirane | C1C(CC2=CC=CC=C12)C1OC1 | C11H12O
product | (2S, 3S)-4-[1-(2-Hydroxy-2-indan-2-yl-ethyl)-pyrrolidine-3-sulfonyl]-phenol | O[C@H](CN1C[C@H](CC1)S(=O)(=O)C1=CC=C(C=C1)O)C1CC2=CC=CC=C2C1 | C21H25NO4S
